US08304419B2
Step E: 4-chloro-2-propyl-1H-imidazole-5-carboxylic acid
A solution of sodium chlorite (2.9 g, 32.1 mmol) and sodium dihydrogen phosphate monohydrate (2.5 g, 18.1 mmol) in water (7.2 mL) was added to a stirred solution of 4-chloro-2-propyl-1H-imidazole-5-carbaldehyde (0.541 g, 3.1 mmol), 2-methyl-2-butene (19.3 mL of a 2M solution in THF, 38.6 mmol), and tert-butanol (2.3 mL) in THF (10 mL). The reaction mixture was stirred at RT for 6 h. The aqueous phase was separated and extracted with EtOAc (4×40 mL). The combined extracts were dried (Na2SO4), filtered, concentrated and the residue was triturated with diethyl ether to provide the title compound (0.587 g, quant.) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.99 (br. s., 1H), 12.88, (br. s., 1H), 2.55 (t, 2H), 1.63 (sex, 2H), 0.86 (t, 3H). ES-LCMS: m/z 189.0 (M+H).

reactant | sodium chlorite | 32.1 mmol, 2.9 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 18.1 mmol, 2.5 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | 4-chloro-2-propyl-1H-imidazole-5-carbaldehyde | 3.1 mmol, 0.541 g | ClC=1N=C(NC1C=O)CCC | C7H9ClN2O
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | water | 7.2 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | tert-butanol | 2.3 mL | C(C)(C)(C)O | C4H10O
product | 4-chloro-2-propyl-1H-imidazole-5-carboxylic acid | 0.587 g | ClC=1N=C(NC1C(=O)O)CCC | C7H9ClN2O2
